US05177106
5-[4-[[(4 Methoxyphenyl)sulfonyl]amino]-2,5-dimethylphenoxy]-2,2-dimethylpentanoic acid, methyl ester
A solution of 2.2 g (12.5 mmol) of para-methoxybenzenesulfonyl chloride in 10 mL of tetrahydrofuran is added over 10 minutes at 0° C. to a solution of 3.5 g (12.5 mmol) of 5-(4-amino-2,5-dimethylphenoxy)-2,2-dimethylpentanoic acid, methyl ester as the free base (Example 2) and 2.5 g (2×12.5 mmol) of triethylamine in 40 mL of tetrahydrofuran. The ice bath is removed and the solution is permitted to stir at ambient temperature for 24 hours. The triethylammonium chloride is removed by filtration, the solvent is removed; the residue is taken up in diethyl ether, and the solution washed with 2×25 mL of 2N hydrochloric acid solution, brine, dried (magnesium sulfate), and evaporated leaving 5.0 g of a colored oil which crystallizes on standing. Recrystallization from 35 mL of isopropyl ether in the presence of charcoal affords 3.3 g of the title compound as off-white crystals; mp 90°-92° C.

reactant | para-methoxybenzenesulfonyl chloride | 12.5 mmol, 2.2 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 5-(4-amino-2,5-dimethylphenoxy)-2,2-dimethylpentanoic acid, methyl ester | 12.5 mmol, 3.5 g | NC1=CC(=C(OCCCC(C(=O)OC)(C)C)C=C1C)C | C16H25NO3
reactant | triethylamine | 12.5 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-[4-[[(4 Methoxyphenyl)sulfonyl]amino]-2,5-dimethylphenoxy]-2,2-dimethylpentanoic acid, methyl ester | 5.0 g | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(OCCCC(C(=O)OC)(C)C)C=C1C)C | C23H31NO6S
